US07863276B2
To a solution of (S)-4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid methyl ester, in THF, is added a solution of lithium hydroxide in water, which is stirred at 20° C. and concentrated under reduced pressure. The reaction mixture is cooled to 9° C., neutralized with 32% HCl, and extracted from toluene. Water is removed from the organic solution by azeotropic distillation. Following distillation, the organic solution is cooled to ambient temperature and transferred to a feeding vessel. The reactor is charged with p-toluenesulfonic acid in toluene and water is removed by azeotropic distillation. The solution is cooled to 60° C., followed by the addition of the organic solution from the feeding vessel. The mixture is stirred at 83° C., then cooled to 10° C. to induce crystallization. The product suspension is filtered, the filter cake rinsed with heptane, and dried on a rotovap, at 40° C., to afford (S)-4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid tosylate. 1HNMR δ 1.60 (d), 1.62 (d), 2.33 (s), 3.23 (m), 3.49 (m), 3.39 (m), 4.05 (m), 4.49 (m), 3.40 (dd), 3.23 (dd), 7.14 (d), 7.14 (d), 7.09 (d), 7.09 (d), 7.59 (d), 7.59 (d), 7.71 (d), 7.26, dd, 7.57 (d), 7.57 (d), 7.40 (d).

reactant | (S)-4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid methyl ester | COC(=O)[C@H]1CC2=CC=CC(=C2C1)S(=O)(=O)N1[C@H](CN(C[C@H]1C)C1=CC=C(C=C1)OC(F)(F)F)C | C24H27F3N2O5S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C1=C2C[C@H](CC2=CC=C1)C(=O)O | InChI=1S/C23H25F3N2O5S.C7H8O3S/c1-14-12-27(18-6-8-19(9-7-18)33-23(24,25)26)13-15(2)28(14)34(31,32)21-5-3-4-16-10-17(22(29)30)11-20(16)21;1-6-2-4-7(5-3-6)11(8,9)10/h3-9,14-15,17H,10-13H2,1-2H3,(H,29,30);2-5H,1H3,(H,8,9,10)/t14-,15+,17-;/m0./s1
